US04526890
A solution of 98.5 grams (0.496 mole) of 1-chloro-4-hydrazino-5,6,7,8-tetrahydrophthalazine in 300 milliliters of propionic acid was heated at reflux for 18 hours, then concentrated by evaporation to half the original volume. The solution was diluted with aqueous sodium carbonate until neutral (pH 7). The resulting precipitate was collected, air-dried at ambient temperature, then dried in a drying over to produce 105 grams (0.444 mol) of 6-chloro-3-ethyl-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine, melting at 93°-94° C. (89.6% yield). Calculated for C11H13ClN4 : C, 55.81; H, 5.53; N, 23.67. Found: C, 56.00; H, 5.63; N, 23.87.

reactant | 1-chloro-4-hydrazino-5,6,7,8-tetrahydrophthalazine | 0.496 mole, 98.5 grams | ClC1=NN=C(C=2CCCCC12)NN | C8H11ClN4
reactant | propionic acid | 300 milliliters | C(CC)(=O)O | C3H6O2
product | 6-chloro-3-ethyl-7,8,9,10-tetrahydro-1,2,4-triazolo[3,4-a]phthalazine | 0.444 mol, 105 grams, 89.6% yield | ClC1=NN2C(C=3CCCCC13)=NN=C2CC | C11H13ClN4
